US09447106B2
Step 2: 8-Nitro-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide
To a solution of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (30 mg, 0.10 mmol) in DMF (5.0 mL) was added K2CO3 (28 mg, 0.20 mmol), followed by 2-(2-fluoro-5-nitrophenyl)ethanol (37 mg, 0.20 mmol). The mixture was warmed to 80° C. stirred for about 16 hr. After cooling down to RT, the mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (15 mL) and water (15 mL), the aqueous was extracted with ethyl acetate (3×10 mL). The combined organic phases were washed brine (10 mL), dried over Na2SO4, filtered, concentrated and purified by Pre-TLC (DCM/CH3OH=20/1) to afford the product about 5.0 mg (11.1%). 1H NMR (400 MHz, DMSO-d6) δ 8.35 (t, J=4.0 Hz, 1 H), 8.28 (d, J=2.8 Hz, 1 H), 8.22 (dd, J=2.8, 9.2 Hz, 1 H), 8.12 (d, J=9.2 Hz, 1 H), 7.64-7.60 (m, 2 H), 7.45-7.41 (m, 2 H), 7.22-7.17 (m, 1 H), 7.14-7.09 (m, 4 H), 3.72-3.65 (m, 2 H), 3.29-3.24 (m, 2 H). MS (ESI) m/e [M+1]+ 442.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.10 mmol, 30 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | K2CO3 | 0.20 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(2-fluoro-5-nitrophenyl)ethanol | 0.20 mmol, 37 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C8H8FNO3
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 8-Nitro-2-(4-phenoxyphenyl)-5,6-dihydro-4H-benzo[f]pyrazolo[1,5-a][1,3]diazepine-3-carboxamide | about 5.0 mg, 11.1% | [N+](=O)([O-])C=1C=CC2=C(CCNC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C1 | C24H19N5O4
